US08067426B2
Intermediate 50: 2-[(1-Methylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine
Sodium t-butoxide (1.30 g, 13.53 mmol) was added to 2-propanol (16.95 ml, 220 mmol) portionwise with stirring over 5 mins. 2-Fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine (2 g, 8.43 mmol) was added and the reaction mixture heated and stirred at 50° C. for 4 hours and then allowed to cool to room temperature. The reaction mixture was then diluted with ethyl acetate (75 ml), washed with water (3×25 ml) and the combined aqueous layers extracted again with ethyl acetate (2×25 ml). The combined organic layers were dried by passage through a hydrophobic frit, filtered and evaporated to give an off-white solid (2.30 g). This material was dissolved in dichloromethane and purified using an aminopropyl SPE cartridge (70 g) eluted with a 0-100% ethyl acetate in cyclohexane gradient. The appropriate fractions were combined and evaporated to give a white solid (1.6 g) which was further purified by column chromatography using a reverse phase (C18) Flashmaster II system loading in 1:1 MeOH/DMSO and eluting with 0-50% acetonitrile (+0.1% TFA) in water (+0.1% TFA) gradient over 40 mins. collecting fractions in vials containing ca. 2 mL of saturated aqueous sodium bicarbonate solution. The appropriate fractions were combined, and extracted with dichloromethane (3×100 mL). The combined organic extracts were dried by passage through a hydrophobic frit and evaporated to give the title compound as a white solid (888 mg).

reactant | Sodium t-butoxide | 13.53 mmol, 1.30 g | CC(C)([O-])C.[Na+]
reactant | 2-propanol | 220 mmol, 16.95 ml | CC(C)O | C3H8O
reactant | 2-Fluoro-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 8.43 mmol, 2 g | FC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C10H12FN5O
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 2-[(1-Methylethyl)oxy]-9-(tetrahydro-2H-pyran-2-yl)-9H-purin-6-amine | 2.30 g | CC(C)OC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C13H19N5O2
